* Schematics Netlist *



V_V1         $N_0001 0 10V
R_R1         $N_0001 $N_0002  100  
R_R2         0 $N_0002  5  
R_R3         0 $N_0003  5  
V_V2         $N_0002 $N_0003 5V
I_I1         $N_0003 0 DC 10A  
